US05674891
In a 3000 mL 3-neck flask, equipped with Ar inlet and magnetic stirrer, is placed 2,4-dibromo-6-tert-butylphenol (70.0 g, 226 mmol), K2CO3 (37.6 g, 276 mmol, 1.2 eq), Nal (3.38 g, 22.6 mmol, 0.1 eq), β-methallyl chloride (33.9 mL, 339 mmol, 1.5 eq), and acetone (1500 mL). The reaction mixture is vigorously stirred at 23° C. for 56 hrs, and monitored by TLC analysis (pet. ether). The solids are removed by filtration, washed with acetone, and the filtrates rotoevaporated (bath temperature kept below 35° C.) to give an oil. The oil is dissolved in hexane (100 mL), and stirred with silica gel (80 g). The slurry is filtered through a pad of Celite, and eluted with additional hexane (6×100 mL). The filtrate is evaporated to give 2,4-dibromo-6-tert-butylphenyl isobutenyl ether as a yellow oil. The material is stored in the freezer and is used as soon as possible.

reactant | 2,4-dibromo-6-tert-butylphenol | 226 mmol, 70.0 g | BrC1=C(C(=CC(=C1)Br)C(C)(C)C)O | C10H12Br2O
reactant | K2CO3 | 276 mmol, 37.6 g, 1.2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 22.6 mmol, 3.38 g, 0.1 eq | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | β-methallyl chloride | 339 mmol, 33.9 mL, 1.5 eq | CC(=C)CCl | C4H7Cl
solvent | hexane | 100 mL | CCCCCC | C6H14
solvent | acetone | 1500 mL | CC(=O)C | C3H6O
product | 2,4-dibromo-6-tert-butylphenyl isobutenyl ether | C(=C(C)C)OC1=C(C=C(C=C1C(C)(C)C)Br)Br | C14H18Br2O
